US04256761
To a mixture of cyclohexylamine (61.0 g, 0.615 mol) and sodium bicarbonate (12.9 g, 0.154 mol) in 200 ml of ethanol was added dropwise t-butyl bromoacetate (30.0 g, 0.154 mol). After 72 hours the ethanol was evaporated and the residue partitioned between water and chloroform. The chloroform layer was washed with water, dried, filtered and concentrated under vacuum to give 31.9 g (97%) of N-cyclohexylglycine t-butyl ester as an oil, Rf =0.59 (25% acetone/25% ethyl acetate/50% hexane).

reactant | cyclohexylamine | 0.615 mol, 61.0 g | C1(CCCCC1)N | C6H13N
reactant | sodium bicarbonate | 0.154 mol, 12.9 g | C([O-])(O)=O.[Na+]
reactant | t-butyl bromoacetate | 0.154 mol, 30.0 g | BrCC(=O)OC(C)(C)C | C6H11BrO2
solvent | ethanol | 200 ml | C(C)O | C2H6O
product | N-cyclohexylglycine t-butyl ester | 31.9 g, 97% | C(C)(C)(C)OC(CNC1CCCCC1)=O | C12H23NO2
